US09210927B2
Preparation of 2-((4-Vinylnaphthalen-1-yl)methyl) isoindoline-1,3-dione (CI69)
To a stirred solution of 4-((1,3-dioxoisoindolin-2-yl)methyl)-1-naphthaldehyde (9 g, 28.5 mmol) in 1,4-dioxane (100 mL) were added K2CO3 (6 g, 42.8 mmol) and methyl triphenyl phosphonium bromide (15.3 g, 35.7 mmol) at ambient temperature. The reaction mixture was heated at 100° C. for 14 h and then was cooled to ambient temperature. The reaction mixture was filtered, and the obtained filtrate was concentrated under reduced pressure. Purification by flash chromatography (SiO2, 100-200 mesh; 20% EtOAc in petroleum ether) afforded the title compound as a white solid (6 g, 67%): mp 146-147° C.; 1H NMR (400 MHz, CDCl3) δ 8.35 (m, 2H), 7.95 (m, 4H), 7.65 (m, 4H), 7.39 (m, 1H), 5.81 (m, 1H), 5.45 (m, 1H), 5.21 (s, 2H); ESIMS m/z 314.13 ([M+H]+).

reactant | 4-((1,3-dioxoisoindolin-2-yl)methyl)-1-naphthaldehyde | 28.5 mmol, 9 g | O=C1N(C(C2=CC=CC=C12)=O)CC1=CC=C(C2=CC=CC=C12)C=O | C20H13NO3
reactant | K2CO3 | 42.8 mmol, 6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
catalyst | methyl triphenyl phosphonium bromide | 35.7 mmol, 15.3 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-((4-Vinylnaphthalen-1-yl)methyl) isoindoline-1,3-dione | 6 g, 67% | C(=C)C1=CC=C(C2=CC=CC=C12)CN1C(C2=CC=CC=C2C1=O)=O | C21H15NO2
